*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents


.param xC2 = 1/(1/220n+1/220n+1/(1u+1u+1u))


Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0


C1 in inv_in 220n

Vze inv_in teste 0

R1 teste 0 1k

X1 nr2 inv_in vcc vee out uA741
R2 nr2 0 1k
R5 nr2 aux 100k

R6 aux out 100k
R7 aux out 100k

R8 out outf 1k

*we tried to place all the capacitors used in series and in parallel but it leads to an unstable situation to Ngspice when trying to calculate the operating point. Thus, we solved this by simply calculating the equivalent capacitance in the parameter xC2
C2 outf 0 xC2

Vteste outf 0 0 ac 1.0 sin(0 700m 1k)

.op
.end

.control
ac dec 1000 10 100MEG

let zout = -v(outf)[2000]/i(Vteste)[2000]
let rez = Re(zout)
let imz = Im(zout)
let abszout = abs(zout)

echo "zout_TAB"
echo "Zo = $&rez + ($&imz)j"
echo "|Zo| = $&abszout"
echo "zout_END"
.endc 